US04692442
A solution of 1.708 g (14.35 mmole) of 2-acetylaminoethyl mercaptan in 2 ml of absolute ethanol is added dropwise over the course of 0.5 hours, while stirring and cooling to 10°-15°, to a solution of 0.80 g (14.35 mmole) of potassium hydroxide in 5 ml of absolute ethanol. After a further half hour, a solution of 1.09 g (14.35 mmole) of carbon disulphide in 3 ml of absolute ethanol is added, the temperature being maintained at 10°-15°. The reaction mixture is further stirred for 3 hours at room temperature and cooled in an ice bath for 20 minutes. The yellow crystalline precipitate is filtered off, washed once with absolute ethanol and yields potassium (2-acetylaminoethyl)-trithiocarbonate having a melting point of 171°-174°.

reactant | 2-acetylaminoethyl mercaptan | 14.35 mmole, 1.708 g | C(C)(=O)NCCS | C4H9NOS
reactant | potassium hydroxide | 14.35 mmole, 0.80 g | [OH-].[K+]
reactant | carbon disulphide | 14.35 mmole, 1.09 g | C(=S)=S | CS2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | potassium (2-acetylaminoethyl)-trithiocarbonate | C(C)(=O)NCCSC([S-])=S.[K+] | InChI=1S/C5H9NOS3.K/c1-4(7)6-2-3-10-5(8)9;/h2-3H2,1H3,(H,6,7)(H,8,9);/q;+1/p-1
